US08022076B2
The solid 4-phenyl-2-propionylaminothiophene-3-carboxylic amide was added to a mixture of ethanol (50 ml) and sodium methoxide (2.24 g) and the resultant mixture was heated under reflux with stirring for 18 hours. The cooled mixture was diluted with water (300 ml) and acidified with concentrated hydrochloric acid. The resulting solid was collected by filtration, washed with water followed by acetonitrile and dried in vacuo to give 2-ethyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one (2.38 g), which was used without further purification.

reactant | 4-phenyl-2-propionylaminothiophene-3-carboxylic amide | C1(=CC=CC=C1)C=1C(=C(SC1)NC(CC)=O)C(=O)N | C14H14N2O2S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium methoxide | 2.24 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 2-ethyl-5-phenyl-3H-thieno[2,3-d]pyrimidin-4-one | 2.38 g | C(C)C=1NC(C2=C(N1)SC=C2C2=CC=CC=C2)=O | C14H12N2OS
